US08980877B2
(E)-3-{1′-[2-(4-Fluoro-phenyl)-ethyl]-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl}-acrylic acid methyl ester (120 mg, 0.30 mmol) was hydrolyzed in AcOH (10 ml) and 20% aqueous HCl solution (10 ml) following the procedure described in Example 31, Step B, giving (E)-3-{1′-[2-(4-fluoro-phenyl)-ethyl]-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl}-acrylic acid as a yellow solid. [LC-MS: (ES+) MH+: 382]. The obtained acid was suspended in DCM (5 ml), treated with TEA (0.06 ml, 0.4 mmol) and then with EDC (86 mg, 0.45 mmol), HOBt (61 mg, 0.45 mmol) and NH2OTHP (42 mg, 0.36 mmol) following the procedure described in Example 30, Step B, giving (E)-3-{1′-[2-(4-fluoro-phenyl)-ethyl]-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl}-N-(tetrahydro-pyran-2-yloxy)-acrylamide (88 mg) as a light yellow solid.

reactant | (E)-3-{1′-[2-(4-Fluoro-phenyl)-ethyl]-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl}-acrylic acid methyl ester | 0.30 mmol, 120 mg | COC(\C=C\C=1C=C2C(CC3(CN(C3)CCC3=CC=C(C=C3)F)OC2=CC1)=O)=O | C23H22FNO4
reactant | HCl | 10 ml | Cl | ClH
solvent | AcOH | 10 ml | CC(=O)O | C2H4O2
product | (E)-3-{1′-[2-(4-fluoro-phenyl)-ethyl]-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl}-acrylic acid | FC1=CC=C(C=C1)CCN1CC2(C1)OC1=CC=C(C=C1C(C2)=O)/C=C/C(=O)O | C22H20FNO4
